US09193717B2
Step A: Diethyl benzyl(hydroxy)propanedioate
A mixture of diethyl benzylpropanedioate (41 g) and CsF (49.8 g) in 90 mL of DMF was heated at 40° C. with vigorous air bubbling for 3 days. The resulting mixture was diluted with ethyl acetate (800 mL) and washed with water (1 L×3). The organic layer was concentrated and then purified by Biotage silica gel column chromatography (5-20% ethyl acetate in hexanes) to give the title product as a colorless oil. 1H NMR (300 MHz, CDCl3) δ: 7.22-7.26 (m, 5H), 4.23 (q, J=7.2 Hz, 4H), 3.80 (br, 1H), 3.35 (s, 2H), 1.26 (t, J=7.2 Hz, 6H).

reactant | diethyl benzylpropanedioate | 41 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | CsF | 49.8 g | [F-].[Cs+]
reactant | DMF | 90 mL | CN(C)C=O | C3H7NO
product | Diethyl benzyl(hydroxy)propanedioate | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)O | C14H18O5
